US08084623B2
(R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-propyl-2-[(3,4-dichloro-phenyl)-hydroxy-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared by reaction of 3,4-dichlorophenyl magnesium bromide with (R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-formyl-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester following the procedure of step 1 of Example 11.

reactant | 3,4-dichlorophenyl magnesium bromide | ClC=1C=C(C=CC1Cl)[Mg]Br
reactant | (R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-formyl-2-propyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@](CC(C1)O[Si](C)(C)C(C)(C)C)(CCC)C=O | C19H37NO4Si
product | (R)-4-(tert-Butyl-dimethyl-silanyloxy)-2-propyl-2-[(3,4-dichloro-phenyl)-hydroxy-methyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@](CC(C1)O[Si](C)(C)C(C)(C)C)(C(O)C1=CC(=C(C=C1)Cl)Cl)CCC | C25H41Cl2NO4Si
